data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]1([C:5](=[O:17])[O:27][CH3:7])[CH2:10][CH2:22][CH2:18][N:25]1[C:19]1=[CH:11][CH2:4][CH2:23][CH2:12][CH2:6]1.[c:1]12[c:16]([n:8][o:26][n+:24]1[O-:3])[n:15][c:13]([O:20][CH3:14])[n:9][cH:21]2>>[c:1]12[c:16]([n:8][o:26][n+:24]1[O-:3])[N:15]=[C:13]([O:20][CH3:14])[N-:9][CH:21]2[CH:11]1[CH2:4][CH2:23][CH2:12][CH2:6][C:19]1=[N+:25]1[CH:2]([C:5](=[O:17])[O:27][CH3:7])[CH2:10][CH2:22][CH2:18]1", "epd": [["LP-/Pi+", [25], [19, 25]], ["Pi-/Sigma+", [11, 19], [11, 21]], ["Pi-/LP+", [21, 9], [9]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:16][CH3:15])[c:18]1[cH:9][cH:6][cH:4][cH:7][cH:10]1.[O-:2][N+:14]([O-:3])=[C:12]1[CH:11]=[CH:19][CH:8]=[CH:13][C:17]1=[O:5]>>[CH:1]([O:5][c:17]1[c:12]([N+:14](=[O:2])[O-:3])[cH:11][cH:19][cH:8][cH:13]1)([O:16][CH3:15])[c:18]1[cH:9][cH:6][cH:4][cH:7][cH:10]1", "epd": [["LP-/Pi+", [2], [14, 2]], ["Pi-/Pi+", [12, 14], [17, 12]], ["Pi-/Sigma+", [5, 17], [5, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[Cl-:8].[O:1]=[S:5](=[O:2])([N:10]=[C:9]=[O:11])[c:13]1[cH:6][cH:3][c:12]([CH3:14])[cH:4][cH:7]1>>[O:1]=[S:5](=[O:2])([N-:10][C:9]([Cl:8])=[O:11])[c:13]1[cH:6][cH:3][c:12]([CH3:14])[cH:4][cH:7]1", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Pi-/LP+", [9, 10], [10]]]}
{"reaction_name": "PIDA-mediated oxidation", "rsmi": "[CH3:1][S:3][CH3:2].[O:4]([H:5])[H:6].[c:8]1([I:7]([O:14][C:15](=[O:16])[CH3:17])[O:18][C:19](=[O:20])[CH3:21])[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH3:1][S:3]([CH3:2])=[O:4].[c:8]1([I:7])[cH:9][cH:10][cH:11][cH:12][cH:13]1.[O:14]([H:5])[C:15](=[O:16])[CH3:17].[O:18]([H:6])[C:19](=[O:20])[CH3:21]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Sigma-/Pi+", [4, 5], [3, 4]], ["Sigma-/Sigma+", [4, 6], [6, 18]], ["Sigma-/LP+", [7, 18], [7]], ["Sigma-/Sigma+", [7, 14], [5, 14]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:3]([CH2:9][c:19]1[cH:20][cH:17][cH:24][cH:18][cH:21]1)([C:31]#[C:25][CH2:10][CH3:22])[S:32](=[O:26])(=[O:27])[c:28]1[cH:15][cH:29][c:36]([CH3:37])[cH:30][cH:16]1.[c:1]12[c:5]([cH:13][cH:11][cH:34][cH:7]1)-[c:6]1[c:2]([cH:8][cH:35][cH:12][cH:14]1)[N+:33]2=[CH:4][CH3:23]>>[c:1]12[c:5]([c:6]3[c:2]([cH:8][cH:35][cH:12][cH:14]3)[n:33]1[CH:4]([CH3:23])[C:25]([CH2:10][CH3:22])=[C:31]=[N+:3]([CH2:9][c:19]1[cH:20][cH:17][cH:24][cH:18][cH:21]1)[S:32](=[O:26])(=[O:27])[c:28]1[cH:15][cH:29][c:36]([CH3:37])[cH:30][cH:16]1)[cH:13][cH:11][cH:34][cH:7]2", "epd": [["LP-/Pi+", [3], [31, 3]], ["Pi-/Sigma+", [25, 31], [25, 4]], ["Pi-/LP+", [4, 33], [33]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:14]([n:4][o:28][n+:27]1[O-:2])[n:13][c:10]([O:21][CH3:11])[n:5][cH:22]2.[cH:3]1[cH:15][cH:6][c:20]([C:17](=[C:8]2[N:9]([CH3:25])[C:18]([CH3:24])=[C:29]([CH3:26])[S:19]2)[O:23][CH3:12])[cH:7][cH:16]1>>[c:1]12[c:14]([n:4][o:28][n+:27]1[O-:2])[N:13]=[C:10]([O:21][CH3:11])[N-:5][CH:22]2[C:17]([c:8]1[n+:9]([CH3:25])[c:18]([CH3:24])[c:29]([CH3:26])[s:19]1)([c:20]1[cH:6][cH:15][cH:3][cH:16][cH:7]1)[O:23][CH3:12]", "epd": [["LP-/Pi+", [9], [8, 9]], ["Pi-/Sigma+", [17, 8], [17, 22]], ["Pi-/LP+", [22, 5], [5]]]}
{"reaction_name": "Electrophilic selenylation of enolates", "rsmi": "[Br:3][Se:5][CH3:6].[CH2-:1][C:7]([CH3:2])=[O:4]>>[Br-:3].[CH2:1]([Se:5][CH3:6])[C:7]([CH3:2])=[O:4]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [3, 5], [3]]]}
{"reaction_name": "Malaprade periodate cleavage", "rsmi": "[O:1]([H:5])[CH:7]([CH3:3])[CH:8]([O:2][H:6])[CH3:4].[O:9]=[I:10](=[O:11])(=[O:12])[O:13][H:14]>>[H:5][O:9][H:6].[O:1]=[CH:7][CH3:3].[O:2]=[CH:8][CH3:4].[I:10](=[O:11])(=[O:12])[O:13][H:14]", "epd": [["Sigma-/Pi+", [1, 5], [1, 7]], ["Sigma-/Sigma+", [2, 6], [6, 9]], ["Sigma-/Pi+", [7, 8], [2, 8]], ["LP-/Sigma+", [9], [5, 9]], ["Sigma-/LP+", [9, 10], [10]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[Li+:20].[O:2]=[S:6](=[O:3])([N:21]=[C:14]=[O:23])[c:28]1[cH:12][cH:4][c:27]([CH3:29])[cH:5][cH:13]1.[c:1]1([CH3:26])[o:22][c:10]([B-:24]23[O:7][CH2:17][C:15]([CH3:11])([CH2:18][O:8]2)[CH2:19][O:9]3)[cH:16][cH:25]1>>[Li+:20].[O:7]1[CH2:17][C:15]2([CH3:11])[CH2:18][O:8][B:24]1[O:9][CH2:19]2.[c:1]1([CH3:26])[o:22][c:10]([C:14]([N-:21][S:6](=[O:2])(=[O:3])[c:28]2[cH:12][cH:4][c:27]([CH3:29])[cH:5][cH:13]2)=[O:23])[cH:16][cH:25]1", "epd": [["Sigma-/Sigma+", [10, 24], [10, 14]], ["Pi-/LP+", [14, 21], [21]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:2][cH:14][cH:21][cH+:12][cH:20][cH:13]1.[cH:3]1[cH:8][cH:7][c:10]2[c:6]([cH:9]1)[CH2:19][CH:15]=[C:16]2[N:11]1[CH2:17][CH2:5][CH2:4][CH2:18]1>>[CH:1]1=[CH:2][CH:14]=[CH:21][CH:12]([CH:15]2[C:16](=[N+:11]3[CH2:17][CH2:5][CH2:4][CH2:18]3)[c:10]3[c:6]([cH:9][cH:3][cH:8][cH:7]3)[CH2:19]2)[CH:20]=[CH:13]1", "epd": [["LP-/Pi+", [11], [16, 11]], ["Pi-/Sigma+", [15, 16], [15, 12]]]}
